* C:\Users\giorg\OneDrive\Documenti\GIORGIO\SCUOLA\UNIVERSITA\TESI TRIENNALE\prova_simulazione_preamp_con_bjt_pdl\prova_simulazione_preamp_con_bjt_pdl.asc
R3 N001 out 51
R4 N002 N001 11
V1 N002 0 5
RA out N003 600
RB N003 0 2000
RD N005 0 4
RC N004 0 100
Q1 out N003 N004 0 T1
Q2 out N004 N005 0 T1 0.5
.model NPN NPN
.model PNP PNP
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.bjt
;ac dec 10 0.01 10G
.op
.MODEL T1 NPN(
+ IS = 2.6e-015 BF = 105 NF = 1.021 VAF = 1000
+ IKF = 2.262 ISE = 2.978E-12 NE = 3.355 BR = 100
+ NR = 1 VAR = 1.2 IKR = 0.00631 ISC = 1.923E-14
+ NC = 2.179 RB = 2.674 IRB = 1.8E-05 RBM = 2.506
+ RE = 0.472 RC = 2.105 XTB = -0.9 EG = 1.114
+ XTI = 3.43 CJE = 3.716E-13 VJE = 0.8986 MJE = 0.3152
+ TF = 1.306E-12 XTF = 2.71 VTF = 0.492 ITF = 2.444
+ PTF = 0 CJC = 2.256E-13 VJC = 0.7395 MJC = 0.3926
+ XCJC = 1 TR = 3.884E-10 CJS = 6E-14 VJS = 0.5
+ MJS = 0.5 FC = 0.8215)
.backanno
.end
