
.SUBCKT BGA614 1 2 3

R1 3 1 600
R2 1 2 2000
R3 N001 2 100
R4 N002 2 4
Q1 3 1 N001 0 T1
Q2 3 N001 N002 0 T1 0.5 OFF

MODEL T1 NPN(
+ IS = 2.6e-015 BF = 105 NF = 1.021 VAF = 1000
+ IKF = 2.262 ISE = 2.978E-12 NE = 3.355 BR = 100
+ NR = 1 VAR = 1.2 IKR = 0.00631 ISC = 1.923E-14
+ NC = 2.179 RB = 2.674 IRB = 1.8E-05 RBM = 2.506
+ RE = 0.472 RC = 2.105 XTB = -0.9 EG = 1.114
+ XTI = 3.43 CJE = 3.716E-13 VJE = 0.8986 MJE = 0.3152
+ TF = 1.306E-12 XTF = 2.71 VTF = 0.492 ITF = 2.444
+ PTF = 0 CJC = 2.256E-13 VJC = 0.7395 MJC = 0.3926
+ XCJC = 1 TR = 3.884E-10 CJS = 6E-14 VJS = 0.5
+ MJS = 0.5 FC = 0.8215)

.backanno
.end
